US07687502B2
[6-(4-Methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-quinazolin-4-yl]-pyridin-2-yl-amine
The compound of Example 20 was manufactured by the same method as in Example 1, by a similar method thereto or by a combination of such a method with a conventional method using 4-chloro-6-iodo-quinazoline, 2-aminopyridine and 3-mercapto-4-methyl-1,2,4-triazole.

reactant | 4-chloro-6-iodo-quinazoline | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | 3-mercapto-4-methyl-1,2,4-triazole | SC1=NN=CN1C | C3H5N3S
product | [6-(4-Methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-quinazolin-4-yl]-pyridin-2-yl-amine | CN1C(=NN=C1)SC=1C=C2C(=NC=NC2=CC1)NC1=NC=CC=C1 | C16H13N7S
